US07179940B2
Preparation of (p-tolyl) (diisopropylamino)borane
0.343 g (0.49 mmol) of palladium catalyst (Ph3P)2PdCl2, 2.129 g (9.8 mmol) of p-iodotoluene, 6.8 ml (49 mmol) of triethylamine, 30 ml of dioxane and 3 ml (19.5 mmol) of diisopropylaminoborane were introduced into a 250 ml Schlenk vessel dried beforehand under argon. The Schlenk vessel was subsequently equipped with a reflux condenser connected at the top to a bubbler. The reaction mixture was stirred magnetically and heated at 70° C. for 15 h. The reaction mixture was subsequently allowed to return, under argon, to ambient temperature. The solvent and the excess reactants were evaporated under the vacuum of a vane pump. The residue obtained was taken up in anhydrous ether and then filtered under argon through dry Celite® 545. The filtrate was again evaporated and the residue was distilled in a Kügelrohr distillation apparatus (T=30–35° C.) under a vacuum of 0.01 mmHg. 1.694 g (Yd=85%) of a colorless oil were isolated. The spectroscopic characteristics are as follows:

reactant | p-iodotoluene | 9.8 mmol, 2.129 g | IC1=CC=C(C=C1)C | C7H7I
reactant | triethylamine | 49 mmol, 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | diisopropylaminoborane | 19.5 mmol, 3 ml | C(C)(C)N(C(C)C)B | C6H16BN
catalyst | palladium | 0.49 mmol, 0.343 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | (p-tolyl) (diisopropylamino)borane | C1(=CC=C(C=C1)BN(C(C)C)C(C)C)C | C13H22BN
